US04053601
i. A mixture of 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-chloro-pyridazine, t-butyl carbazate and 1,8-bis-(dimethylamino)naphthalene was heated for 2 hours to give 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine.

reactant | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-chloro-pyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)Cl)O | C18H24ClN3O3
reactant | t-butyl carbazate | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | 1,8-bis-(dimethylamino)naphthalene | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)-4-methoxyphenyl]-6-(2-t-butyloxycarbonylhydrazino)pyridazine | C(C)(C)(C)NCC(COC1=C(C=CC(=C1)OC)C=1N=NC(=CC1)NNC(=O)OC(C)(C)C)O | C23H35N5O5
